US08389524B2
(2R)-2-[(4-{[(7-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
(2R)-2-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (50 mg, 0.166 mmol) (for a preparation see Example 16(j)) and 7-fluoro-2,3-dihydro-benzo[1,4]dioxin-6-carboxaldehyde (28 mg, 0.926 eq.) (for a synthesis see WO2002056882, Example 23(a)) were stirred in 9:1 v:v chloroform:methanol (1 ml) for 2.5 hours. Sodium triacetoxyborohydride (105 mg, 3.000 eq.) was then added in one portion and the mixture was stirred vigorously at room temperature for 30 min. Saturated aqueous sodium hydrogen carbonate (0.5 ml) was then added, followed by dichloromethane (10 ml) and the mixture was stirred vigorously at room temperature for 10 min and the phases were separated (hydrophobic frit). The organic phase was evaporated under reduced pressure and the crude product was purified by column chromatography on silica (eluted with 0-12% (2M NH3 in MeOH) in DCM. Appropriate fractions were combined and evaporated under reduced pressure to give the free base of the title compound as a white solid (48 mg).

reactant | (2R)-2-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 0.166 mmol, 50 mg | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | 7-fluoro-2,3-dihydro-benzo[1,4]dioxin-6-carboxaldehyde | 28 mg, 0.926 eq. | FC=1C(=CC2=C(OCCO2)C1)C=O | C9H7FO3
reactant | Sodium triacetoxyborohydride | 105 mg, 3.000 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 0.5 ml | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2R)-2-[(4-{[(7-Fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 48 mg | Cl.FC=1C(=CC2=C(OCCO2)C1)CNC1CCN(CC1)C[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | InChI=1S/C24H26FN5O4.ClH/c25-18-10-21-20(33-7-8-34-21)9-15(18)11-26-16-3-5-28(6-4-16)13-17-14-29-22(31)2-1-19-24(29)30(17)23(32)12-27-19;/h1-2,9-10,12,16-17,26H,3-8,11,13-14H2;1H/t17-;/m1./s1
